US05614544
A mixture of 3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propionaldehyde (1.47 g), sodium cyanide (0.25 g), acetic anhydride (0.52 g), benzyltributylammonium chloride [(C4H9)3 (C6H5CH2)N+Cl- ](0.66 g) and dichloromethane (30 ml)- water (10 ml) was stirred at room temperature for 18 hours. The organic layer was separated, washed with water, dried (MgSO4) and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:2), 2-acetoxy-4-[4-[3-(5-methyl- 2-phenyl-4-oxazolyl)propionyl]phenyl]butyronitrile (1.75 g, quantitative) was obtained as an oily substance. NMR (δ ppm in CDCl3): 2.13 (3H, s), 2.15-2.3 (2H, m), 2.38 (3H, s), 2.8-3.0 (4H, m), 3.39 (2H, t, J=7 Hz), 5.29 (1H, t, J=6.5 Hz), 7.28 (2H, d, J=8 Hz), 7.35-7.5 (3H, m), 7.9-8.05 (4H, m)

reactant | 3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propionaldehyde | 1.47 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=C1)CCC=O | C22H21NO3
reactant | sodium cyanide | 0.25 g | [C-]#N.[Na+]
reactant | acetic anhydride | 0.52 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | benzyltributylammonium chloride | 0.66 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | water | 10 ml | O | H2O
product | 2-acetoxy-4-[4-[3-(5-methyl- 2-phenyl-4-oxazolyl)propionyl]phenyl]butyronitrile | 1.75 g | C(C)(=O)OC(C#N)CCC1=CC=C(C=C1)C(CCC=1N=C(OC1C)C1=CC=CC=C1)=O | C25H24N2O4
